US06589978B2
(2RS,5RS)-1-{3-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propyl}-5-methyl-1H-tetrazole
The title compound, colorless oil, MS: m/e=444.4 (M+H+), was prepared in accordance with the general method of example 82b from (2RS,5RS)-2-(3-chloro-propyl)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine and 5-methyl-1H-tetrazole.

reactant | (2RS,5RS)-2-(3-chloro-propyl)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine | ClCCCC1N(C(CC1)C1=CC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)C | C20H23ClFNO2S
reactant | 5-methyl-1H-tetrazole | CC1=NN=NN1 | C2H4N4
product | (2RS,5RS)-1-{3-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propyl}-5-methyl-1H-tetrazole | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CCCN1N=NN=C1C | C22H26FN5O2S
